US07074800B1
A solution of 5-methoxy-2-trifluoromethylindole (800 mg, 3.7 mmol) in methylene chloride (6 ml) was cooled to −15° C. and a solution of 1M boron tribromide in methylene chloride (7.44 ml, 7.4 mmol) was added in portions. The mixture was allowed to warm to ambient temperature and was stirred for 45 minutes. After cooling to 0° C., saturated aqueous sodium hydrogen carbonate (25 ml) was added. The mixture was extracted with ethyl acetate. The organic layer was dried (MgSO4) and the volatiles were removed by evaporation. The residue was purified by column chromatography eluting with ethyl acetate/petroleum ether. After removal of the volatiles by evaporation, the solid was triturated with pentane, collected by filtration and dried under vacuum to give 5-hydroxy-2-trifluoromethylindole (290 mg, 39%).

reactant | 5-methoxy-2-trifluoromethylindole | 3.7 mmol, 800 mg | COC=1C=C2C=C(NC2=CC1)C(F)(F)F | C10H8F3NO
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
reactant | sodium hydrogen carbonate | 25 ml | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 7.4 mmol, 7.44 ml | C(Cl)Cl | CH2Cl2
product | 5-hydroxy-2-trifluoromethylindole | 290 mg, 39% | OC=1C=C2C=C(NC2=CC1)C(F)(F)F | C9H6F3NO
